US06294558B1
4-(2-Furyl)aniline (step 1)
To a suspension of 2-(4-nitrophenyl)furan (0.378 g, 2 mmol, prepared according to the method of Heterocycles, 1990, 31, 1951) in ethanol (20 mL) was heated to 70° C. and added stannous chloride dihydrate (2.26 g, 10 mmol) and the mixture was stirred for 2 hours. The reaction mixture was cooled to room temperature and poured into water (50 mL), the whole was extracted with ethyl acetate (30 mL×2). The organic layer was dried over Na2SO4, filtered through celite and concentrated to give the crude subtitle compound (0.35 g).

reactant | 2-(4-nitrophenyl)furan | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC=CC1 | C10H7NO3
reactant | water | 50 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-(2-Furyl)aniline | 0.35 g | O1C(=CC=C1)C1=CC=C(N)C=C1 | C10H9NO
